US05407945
Using a similar procedure to that described in Example 14, 6-bromomethyl-1-methyl-1,2-dihydroquinolin-2-one was reacted with 4-(3-hydroxyphenyl)-4-methyltetrahydropyran to give 4-methyl-4-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]tetrahydropyran in 40% yield, m.p. 107°-108° C.

reactant | 6-bromomethyl-1-methyl-1,2-dihydroquinolin-2-one | BrCC=1C=C2C=CC(N(C2=CC1)C)=O | C11H10BrNO
reactant | 4-(3-hydroxyphenyl)-4-methyltetrahydropyran | OC=1C=C(C=CC1)C1(CCOCC1)C | C12H16O2
product | 4-methyl-4-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]tetrahydropyran | 40% yield | CC1(CCOCC1)C1=CC(=CC=C1)OCC=1C=C2C=CC(N(C2=CC1)C)=O | C23H25NO3
